US05962458
A suspension of 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-6-methoxy-7-(2-(4-pyridyl)ethoxy)quinazoline (300 mg, 0.63 mmol) and 2M aqueous sodium hydroxide (0.38 ml, 0.76 mmol) in methanol (6 ml) was stirred at ambient temperature for 2 hours. Water was added and the mixture adjusted to pH7 with 2M hydrochloric acid. The precipitate was collected by filtration, washed with water, and dried under vacuum. The solid was dissolved in methylene chloride/methanol and a 5M solution of hydrogen chloride in isopropanol (0.5 ml) was added. The mixture was diluted with isopropanol, and the methylene chloride and methanol solvents were removed by evaporation. The resulting precipitate was collected by filtration, washed with methylene chloride and dried under vacuum to give 4-(2-fluoro-5-hydroxy4-methylanilino)-6-methoxy-7-(2-(4-pyridyl)ethoxy)quinazoline hydrochloride (270 mg, 94%).

reactant | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-6-methoxy-7-(2-(4-pyridyl)ethoxy)quinazoline | 0.63 mmol, 300 mg | FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCC2=CC=NC=C2)C=C(C(=C1)C)OC(=O)OC | C25H23FN4O5
reactant | sodium hydroxide | 0.76 mmol, 2M, 0.38 ml | [OH-].[Na+]
reactant | Water | O | H2O
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | methanol | 6 ml | CO | CH4O
product | 4-(2-fluoro-5-hydroxy4-methylanilino)-6-methoxy-7-(2-(4-pyridyl)ethoxy)quinazoline hydrochloride | 270 mg, 94% | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCC2=CC=NC=C2)C=C(C(=C1)C)O | InChI=1S/C23H21FN4O3.ClH/c1-14-9-17(24)19(11-20(14)29)28-23-16-10-21(30-2)22(12-18(16)26-13-27-23)31-8-5-15-3-6-25-7-4-15;/h3-4,6-7,9-13,29H,5,8H2,1-2H3,(H,26,27,28);1H
